US06455550B1
Preparation of 4-(5-Bromo-1,3-dioxo-2H-isoindol-2-yl)-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine Methyl Ester
To a suspension of 4-amino-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine methyl ester (6.78 mmol, 1.99 g) in dichloromethane (90 mL) was added a solution of 4-bromophthalic anhydride (6.78 mmol, 1.54 g) in dichloromethane (30 mL) and 1,1′-carbonyldiimidazole (6.78 mmol, 1.1 g) at room temperature. The resulting solution was stirred for 15 h at which time TLC analysis of the mixture indicated the absence of starting material. The mixture was diluted with water (100 mL) and layers were separated. The aqueous layer was extracted with dichloromethane (2×100 mL) and the combined extracts were washed with brine solution and dried over anhydrous magnesium sulfate. Filtration of the drying agent and concentration of the solvent under vacuum gave a crude product which was purified by silica gel column chromatography to obtained 2.4 g (70%) of a white solid: mp 168-170° C. HR MS C23H23BrN2O6): Obs mass, 525.0656. Calcd mass, 525.0637 (M+Na).

reactant | 4-amino-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine methyl ester | 6.78 mmol, 1.99 g | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)N)=O | C15H22N2O4
reactant | 4-bromophthalic anhydride | 6.78 mmol, 1.54 g | BrC=1C=C2C(C(=O)OC2=O)=CC1 | C8H3BrO3
reactant | 1,1′-carbonyldiimidazole | 6.78 mmol, 1.1 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | dichloromethane | 90 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 30 mL | ClCCl | CH2Cl2
solvent | water | 100 mL | O | H2O
product | 4-(5-Bromo-1,3-dioxo-2H-isoindol-2-yl)-N-[(1,1-dimethylethoxy)carbonyl]-L-phenylalanine Methyl Ester | 2.4 g, 70% | COC([C@@H](NC(=O)OC(C)(C)C)CC1=CC=C(C=C1)N1C(C2=CC=C(C=C2C1=O)Br)=O)=O | C23H23BrN2O6
